US04616014
A mixture of 3-hydrazino-5-hydrazino-5-methyl-6-phenyl-1,2,4-triazine (6.6 g), triethylamine (5.4 g), 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile (9.76 g) in tetrahydrofuran (60 ml) was heated at 63° C. for 5.5 hours with stirring and then allowed to stand at room temperature for 61 hours. The mixture was treated with diisopropyl ether (40 ml), and the resultant precipitates were collected by filtration, washed successively with diisopropyl ether, methanol and diisopropyl ether, and dried to give 3-(2-t-butoxycarbonylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine (8.92 g).

reactant | 3-hydrazino-5-hydrazino-5-methyl-6-phenyl-1,2,4-triazine | 6.6 g | N(N)C1=NN=C(C(N1)(C)NN)C1=CC=CC=C1 | C10H15N7
reactant | triethylamine | 5.4 g | C(C)N(CC)CC | C6H15N
reactant | 2-t-butoxycarbonyloxyimino-2-phenylacetonitrile | 9.76 g | C(C)(C)(C)OC(=O)ON=C(C#N)C1=CC=CC=C1 | C13H14N2O3
reactant | diisopropyl ether | 40 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | 3-(2-t-butoxycarbonylhydrazino)-5-methyl-6-phenyl-1,2,4-triazine | 8.92 g | C(C)(C)(C)OC(=O)NNC=1N=NC(=C(N1)C)C1=CC=CC=C1 | C15H19N5O2
